US07482448B2
To a solution of {(S)-1-[hydroxy-(5-thiophen-2-yl-oxazol-2-yl)-methyl]-propyl}-carbamic acid tert-butyl ester (361 mg, 1.07 mmol) in dry dichloromethane (3 mL) is added 4N HCl in dioxane (3.0 mL, XS). The mixture is stirred at room temperature for 16 h, then concentrated in vacuum to afford (S)-2-Amino-1-(5-thiophen-2-yl-oxazol-2-yl)-butan-1-ol hydrochloride as a solid (quant.).

reactant | {(S)-1-[hydroxy-(5-thiophen-2-yl-oxazol-2-yl)-methyl]-propyl}-carbamic acid tert-butyl ester | 1.07 mmol, 361 mg | C(C)(C)(C)OC(N[C@@H](CC)C(C=1OC(=CN1)C=1SC=CC1)O)=O | C16H22N2O4S
reactant | HCl | 4N | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-1-(5-thiophen-2-yl-oxazol-2-yl)-butan-1-ol hydrochloride | Cl.NC([C@H](O)C=1OC(=CN1)C=1SC=CC1)CC | InChI=1S/C11H14N2O2S.ClH/c1-2-7(12)10(14)11-13-6-8(15-11)9-4-3-5-16-9;/h3-7,10,14H,2,12H2,1H3;1H/t7?,10-;/m0./s1
